US06303194B1
A solution of 17.84 g of KOtBu in 100 ml of THF is added dropwise at 0C to a suspension of 53.20 g of 4,4,′-dipentylbicyclohexyl-4-carbaldehyde and 56.80 g of methyltriphenylphosphonium bromide in 300 ml of THF. The mixture is stirred at RT overnight, water is added, and the mixture is extracted with MTB ether. The combined organic phases are subjected to conventional work-up, giving 4,4′-dipentyl-4-vinylbicyclohexyl.

reactant | KOtBu | 17.84 g | CC(C)(C)[O-].[K+]
reactant | water | O | H2O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 300 ml | C1CCOC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | 56.80 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 4,4′-dipentyl-4-vinylbicyclohexyl | C(CCCC)C1(CCC(CC1)C1CCC(CC1)CCCCC)C=C | C24H44
